US09370522B2
Step 2. 1,2-bis(4-chlorophenyl)ethane-1,2-dione
The dione product was obtained using the same synthetic methods as shown in Example 25, step 6, using 1,2-bis(4-chlorophenyl)ethanone (2.12 g, 8.00 mmol, 1.00 equiv) and SeO2 (5.11 g, 46.0 mmol, 5.75 equiv) as reactants. The solution was allowed to react, with stifling, for 2 hr at 120° C., then diluted with ethyl acetate, washed with saturated aqueous NaCl, and concentrated under vacuum. This afforded 2.19 g (crude) of 1,2-bis(4-chlorophenyl)ethane-1,2-dione as a yellow solid.

reactant | 1,2-bis(4-chlorophenyl)ethanone | 8.00 mmol, 2.12 g, 1.00 equiv | ClC1=CC=C(C=C1)C(CC1=CC=C(C=C1)Cl)=O | C14H10Cl2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,2-bis(4-chlorophenyl)ethane-1,2-dione | ClC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)Cl)=O | C14H8Cl2O2
